Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting/low back discomfort

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo G5 ___ at 35 (___) 
weeks by early U/S (discordant by LMP) with multiple concerns. 
She notes low back pain x3 days and a slight increase in 
nausea/vomiting.  She has been taking Zofran during the 
pregnancy. She denies RUQ pain, fever, bleeding, leakage of
water. She endorses active FM. 
.
The patient is currently homeless (evicted from her housing) and 
has been living with her sister in ___. She presented 
to ___ and ___ the nausea/vomiting in the setting of diabetes, 
the transferring physician recommended transfer to tertiary care 
___ further evaluation. 
.
At ___, the patient had BS of 174 -> 191 -> 145. Lytes were 
pending. A WBC was 6.6. The patient was given a liter of IVF An 
NST was category 1 ___.  The patient was not in 
labor with an unchanged cervical exam of ___. 
 
Past Medical History:
Prenatal Care: 
EDC ___ by early first trimester U/S discordant by 8 days 
from LMP
.
Normal hemoglobin electrophoresis
B+/Ab neg RPRNR / RI/ HIV neg / Hep B neg/ urine culture neg /
HCT 33%
GC/CT neg, Quantiferon gold negative
CF screen negative
First trimester ERA low risk
Anatomical survey: per patient normal. 
22 lbs gain
8 week BP 115/76
Issues:
-T2DM, Followed by endocrinologist in CT. Using NPH /Humalog for
control. Class B. Fetal Echo normal. Fastings recorded as 
normal; occ postprandial BS recorded as normal range by CNM
-gallstones: Met with GI surgeon; deferring surgery until
postpartum. Admitted ___ at ___
- Anemia
- Homeless
-Multiple admissions for nausea/vomiting and dehyhdration for
rehydration with IVF
.
ObHx: 
- ___:  Term Stat Cesarean for NRFHR with tight nuchal cord. 8
lbs 13 oz
-___ Term 8 lbs 15 oz, VBAC, no comps
-___ Term 9 lbs 15 oz 1 hour labor VBAC, no comps. GDMA1 this
pregnancy
___ SAB
.
GynHX: Denies GC/CT/ HSV. Denies abnl paps
.
PMHx: Diabetes as above 
Depression / Anxiety
History of chest pain ___ with reportedly negative cardiac
catheterization per patient
.
PSHx: 
D&C
Cesarean
Cardiac catheterization
.
Allergies: Denies

 
Social History:
Presents with father of the pregnancy. Homeless. Living with 
sister in ___ recently evicted from their home in 
___. Denies T/E/D.

 
Physical Exam:
Admission Exam: 
well, NAD ___ woman
98.3, 88, 20, 120/60
RRR, no murmurs
Lungs clear anteriorly
Abd: obese, soft, non-tender fundus
Ext: soft, non-tender bilaterally

SVE: ___ unchanged
NST: 140 + accels, no decels, mod variability
.
Discharge Exam: 
AFVSS
NAD, comfortable
Abd gravid, soft, NT
B/L ___ edema, symmetric
 
Pertinent Results:
___ 06:45AM BLOOD WBC-6.8 RBC-3.25* Hgb-8.7* Hct-25.4* 
MCV-78* MCH-26.6* MCHC-34.0 RDW-14.8 Plt ___
___ 08:30PM BLOOD WBC-7.7 RBC-3.19* Hgb-8.5* Hct-25.5* 
MCV-80* MCH-26.8* MCHC-33.5 RDW-13.8 Plt ___
___ 08:30PM BLOOD Neuts-55.9 ___ Monos-6.2 Eos-1.2 
Baso-0.1
___ 06:45AM BLOOD Glucose-84 UreaN-6 Creat-0.5 Na-138 K-3.6 
Cl-106 HCO3-19* AnGap-17
___ 08:30PM BLOOD Glucose-105* UreaN-6 Creat-0.4 Na-138 
K-4.7 Cl-108 HCO3-19* AnGap-16
___ 06:45AM BLOOD ALT-15 AST-20 TotBili-0.3 DirBili-0.1 
IndBili-0.2
___ 08:30PM BLOOD ALT-16 AST-35 Amylase-41 TotBili-3.5* 
DirBili-0.4* IndBili-3.1
___ 06:45AM BLOOD Calcium-8.8 Phos-4.1 Mg-1.7
___ 08:30PM BLOOD Calcium-8.5 Phos-3.3 Mg-1.7 Iron-22*
___ 08:30PM BLOOD Folate-GREATER TH Ferritn-9.7*
___ 06:45AM BLOOD %HbA1c-7.4* eAG-166*
 
Brief Hospital Course:
Ms. ___ was transferred from ___ for 
nausea and vomiting in the setting of known gallstones and 
diabetes. On admission, she had no clinical evidence of 
cholecystitis, but her total bilirubin was elevated and so she 
underwent a right upper quadrant ultrasound which showed 
gallstones and no ductal dilatation or ultrasound evidence of 
cholecystitis. Her other labs and electrolytes were normal. 
Repeat labs after IVF hydration showed a normal total bilirubin. 
The patient's symptoms resolved with antiemetics and IVF.
. 
For her diabetes, she was monitored with regular fingersticks 
and maintained on her prior insulin regimen. She had an 
inpatient nutrition consult.
.
Given her h/o anemia, iron studies were repeated and were 
consistent with iron deficiency anemia. She received a dose of 
Intravenous iron. 
. 
She had a social work consult while hospitalized given her 
history of homelessness and recent transfer of care from 
___. 
.
Her antenatal testing was reassuring during her admission. She 
had a FFS/EFW on ___ demonstrating no anomalies with an EFW 
of 3231gm/78th%, cephalic position with posterior placenta. 
.
She was discharged home in stable condition with outpatient 
follow up scheduled in the ___ Maternal Fetal Medicine.
 
Medications on Admission:
NPH ___ and Humalog 15 with breakfast and 32 with dinner

 
Discharge Medications:
1. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*2
2. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*60 Packet Refills:*0
3. Humalog 16 Units Breakfast
Humalog 32 Units Dinner
NPH 24 Units Breakfast
NPH 34 Units Bedtime
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. lancets 17 gauge miscellaneous ongoing 
RX *lancets 30 gauge  four times daily Disp #*100 Each 
Refills:*2
6. Prenatal Gummy (PNV62-FA-om3-dha-epa-fish oil) 400 mcg-35 mg 
-25 mg-5 mg oral daily 
RX *PNV62-FA-om3-dha-epa-fish oil [Prenatal Gummy] 400 mcg-35 
mg-25 mg-5 mg-113.5 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0
7. FreeStyle Lite Meter (blood-glucose meter)    miscellaneous 
once 
RX *blood-glucose meter [FreeStyle Lite Meter]   once Disp #*1 
Kit Refills:*0
8. FreeStyle Lite Strips (blood sugar diagnostic)    
miscellaneous once 
RX *blood sugar diagnostic [FreeStyle Lite Strips]   four times 
daily Disp #*100 Strip Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type 2 Diabetes
Gallstones

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital for monitoring of your 
symptoms and repeat gallbladder labs. Your headache, nausea and 
back pain improved while in the hospital with medications. Your 
labs improved and were normal on the day of discharge. An 
ultrasound of your gallbladder showed gallstones, but no 
infection or impacted gallstone. 

You should have appointments twice a week with an OB/GYN. 
 
Followup Instructions:
___